US07196079B2
Step D. 9-Chloro-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine
Cesium carbonate (1.01 g, 3.08 mmol) was added to a solution of 2,2,2, -trifluoroethyl iodide (0.991 mL, 10.3 mmol) and 9-chloro-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine (0.557 g, 2.06 mmol) in dimethylformamide. The reaction was heated at 50° C. for 96 h, adding more 2,2,2-trifluoroethyl iodide as needed. The reaction was worked up with methylene chloride and saturated brine. The residue was purified by chromatography (silica gel, 0–30% ethyl acetate in hexane gradient elution), giving the title compound (287 mg). 1H NMR (500 MHz, CDCl3) δ 7.66–7.23 (m, 8H), 5.20 (m, 1H), 4.85 (d, J=11 Hz, 1H), 4.24 (m, 1H), 3.79 (d, J=11 Hz, 1H).

reactant | Cesium carbonate | 3.08 mmol, 1.01 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trifluoroethyl iodide | 10.3 mmol, 0.991 mL | FC(CI)(F)F | C2H2F3I
reactant | 9-chloro-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 2.06 mmol, 0.557 g | ClC1=CC=CC=2C(=NCC(NC21)=O)C2=CC=CC=C2 | C15H11ClN2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 9-Chloro-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepine | 287 mg | ClC1=CC=CC=2C(=NCC(N(C21)CC(F)(F)F)=O)C2=CC=CC=C2 | C17H12ClF3N2O
